US04347368
To a solution of 1.1 equivalents of freshly prepared lithium diisopropylamide in anhydrous tetrahydrofuran under a nitrogen atmosphere at -78° is added a solution of 8-oxo-2,2,7-trimethyl-3-oxa-1-azabicyclo-[4.2.0]octane in anhydrous tetrahydrofuran which has been cooled to -78° C. After two minutes, the resulting lithium enolate is treated with excess formaldehyde, introduced as a gas just above the surface of the stirred solution. The solution is stirred for 30 minutes at -78° and then poured into water. The aqueous phase is saturated with sodium chloride and extracted with ethyl acetate. The combined ethyl acetate solutions are dried over magnesium sulfate and filtered. The filtrate is evaporated under reduced pressure to give the crude product. Purification by chromatography on silica gel using ethyl acetate/benzene gives 8-oxo-2,2,7-trimethyl-7(hydroxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 8-oxo-2,2,7-trimethyl-3-oxa-1-azabicyclo-[4.2.0]octane | O=C1C(C2CCOC(N12)(C)C)C | C9H15NO2
reactant | formaldehyde | C=O | CH2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8-oxo-2,2,7-trimethyl-7(hydroxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane | O=C1C(C2CCOC(N12)(C)C)(CO)C | C10H17NO3
